US07678929B2
16.9 g (65.9 mmol) of 7,8-difluoro-2-pentylchroman-6-ol are dissolved in 110 ml of dichloromethane, and 13.5 ml (77.1 mmol) of N-ethyldiisopropylamine are added with ice-cooling. After 5 min, 6.0 ml (79.0 mmol) of chloromethyl methyl ether are metered in the temperature range from 15 to 30° C. After 16 h at room temperature, 50 ml of triethylamine are added, and the batch is stirred again for 24 h. Water is added to the reaction mixture, and the organic phase is separated off. The aqueous phase is extracted with dichloromethane, and the combined organic phases are washed successively with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by column chromatography (SiO2, 1-chlorobutane), giving 7,8-difluoro-6-methoxymethoxy-2-pentylchroman as a yellowish oil.

reactant | 7,8-difluoro-2-pentylchroman-6-ol | 65.9 mmol, 16.9 g | FC1=C(C=C2CCC(OC2=C1F)CCCCC)O | C14H18F2O2
reactant | N-ethyldiisopropylamine | 77.1 mmol, 13.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 79.0 mmol, 6.0 ml | COCCl | C2H5ClO
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 7,8-difluoro-6-methoxymethoxy-2-pentylchroman | FC1=C(C=C2CCC(OC2=C1F)CCCCC)OCOC | C16H22F2O3
